US08124617B2
To a mixed solution of methyl 2,5-dihydroxybenzoate (10.0 g), potassium carbonate (12.3 g) and acetone (100 ml) was added benzyl bromide (7.43 ml), and the mixture was stirred overnight at room temperature. After the insoluble material was removed by filtration, the mother solution was concentrated. The obtained residue was purified by column chromatography (LL, Biotage cartridge, ethyl acetate:n-hexane=1:9→1:5) to give methyl 5-benzyloxy-2-hydroxybenzoate (9.63 g, 63%) as colorless crystals.

reactant | methyl 2,5-dihydroxybenzoate | 10.0 g | OC1=C(C(=O)OC)C=C(C=C1)O | C8H8O4
reactant | potassium carbonate | 12.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 7.43 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | methyl 5-benzyloxy-2-hydroxybenzoate | 9.63 g, 63% | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OC)C1)O | C15H14O4
